US07612108B2
5-Bromo-2-hydroxybenzonitrile, isobutyl bromide, and potassium carbonate were heated at 80° C. in DMF in the presence of tetra-n-butylammonium bromide to obtain 5-bromo-2-isobutoxybenzonitrile. F: 254, 256.

reactant | 5-Bromo-2-hydroxybenzonitrile | BrC=1C=CC(=C(C#N)C1)O | C7H4BrNO
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-bromo-2-isobutoxybenzonitrile | BrC=1C=CC(=C(C#N)C1)OCC(C)C | C11H12BrNO
